US06939972B2
In another aspect, the present invention is directed to an improved process for producing 4-dimethyl amino pyridine that provides for the recovery of ethyl acetate during salt formation and recycling the ethyl acetate. The process comprises quaternizing pyridine with thionyl chloride in presence of recovered ethyl acetate to provide N-[4-pyridyl]pyridinium chloride hydrochloride and then aminating the resulting salt with N,N-dimethyl formamide. The resulting reaction mass is hydrolysed in presence of a base, extracted with an aromatic solvent, such as benzene, and distilled under vacuum employing a fractionating column to give 4-dimethyl amino pyridine with the desired quality and yield.

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4-pyridyl]pyridinium chloride hydrochloride | Cl.[Cl-].N1=CC=C(C=C1)[N+]1=CC=CC=C1 | InChI=1S/C10H9N2.2ClH/c1-2-8-12(9-3-1)10-4-6-11-7-5-10;;/h1-9H;2*1H/q+1;;/p-1
